US09238647B2
Step A: Methyl 4-amino-3-bromo-5-hydroxybenzoate
To a solution of methyl 4-amino-3-hydroxybenzoate (2.5 g, 15.0 mmol) in dichloromethane (71 mL) and N,N-dimethylformamide (3.6 mL) was added N-bromosuccinamide (2.93 g, 16.5 mmol). The mixture was stirred at ambient temperature. After 15 min, the mixture was quenched with sat. sodium sulfite. Hydrochloric acid (1.0 M) was added and the mixture was extracted with dichloromethane (3×). The combined organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→100% ethyl acetate) gave the title compound (1.2 g). LC-MS [M]=246.0.

reactant | methyl 4-amino-3-hydroxybenzoate | 15.0 mmol, 2.5 g | NC1=C(C=C(C(=O)OC)C=C1)O | C8H9NO3
reactant | N-bromosuccinamide | 16.5 mmol, 2.93 g | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | dichloromethane | 71 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 3.6 mL | CN(C=O)C | C3H7NO
product | Methyl 4-amino-3-bromo-5-hydroxybenzoate | 1.2 g | NC1=C(C=C(C(=O)OC)C=C1O)Br | C8H8BrNO3
